US09102774B2
A mixture of 15.0 g (134 mmoles, 3 eq) of 1-octene, 3.21 g (44.6 mmoles, 1 eq) of acrylic acid, 0.257 g (2.67 mmoles, 0.06 eq) of methanesulfonic acid, 0.0277 g of MEHQ and 0.0034 g of copper(II) chloride dihydrate was heated at 105° C. for 22 hours to give 2.5% conversion to octyl acrylate based on acrylic acid consumed.

reactant | 1-octene | 134 mmoles, 15.0 g, 3 eq | C=CCCCCCC | C8H16
reactant | acrylic acid | 44.6 mmoles, 3.21 g, 1 eq | C(C=C)(=O)O | C3H4O2
reactant | methanesulfonic acid | 2.67 mmoles, 0.257 g, 0.06 eq | CS(=O)(=O)O | CH4O3S
reactant | MEHQ | 0.0277 g | COC1=CC=C(C=C1)O | C7H8O2
catalyst | copper(II) chloride dihydrate | 0.0034 g | O.O.[Cu](Cl)Cl
product | octyl acrylate | C(C=C)(=O)OCCCCCCCC | C11H20O2
